US07074800B1
Diisopropyl azodicarboxylate (146 mg, 0.72 mmol) was added to a solution of 7-hydroxy-4-(2-methylindol-5-yloxy)quinazoline (100 mg, 0.34 mmol), triphenyl phosphine (189 mg, 0.72 mol), and 3-pyrrolidinopropan-1-ol (89 mg, 0.686 mmol), (J. Org. Chem. 1988, 53, 3164), in methylene chloride (2.5 ml). After stirring overnight at ambient temperature, the solid was filtered. The filtrate was purified by column chromatography eluting with ethyl acetate/methylene chloride (1/1) followed by ethyl acetate/methylene chloride/methanol (4/5/1), methylene chloride/methanol (9/1) and 3N ammonia in methanol/methylene chloride (1/9). After removal of the solvent, the residue was triturated with ether, filtered, and dried under vacuum to give 4-(2-methylindol-5-yloxy)-7-(3-(pyrrolidin-yl)propoxy)quinazoline (49 mg, 35%)

reactant | Diisopropyl azodicarboxylate | 0.72 mmol, 146 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 7-hydroxy-4-(2-methylindol-5-yloxy)quinazoline | 0.34 mmol, 100 mg | OC1=CC=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C | C17H13N3O2
reactant | triphenyl phosphine | 0.72 mol, 189 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-pyrrolidinopropan-1-ol | 0.686 mmol, 89 mg | N1(CCCC1)CCCO | C7H15NO
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-methylindol-5-yloxy)-7-(3-(pyrrolidin-yl)propoxy)quinazoline | 49 mg, 35% | CC=1NC2=CC=C(C=C2C1)OC1=NC=NC2=CC(=CC=C12)OCCCN1CCCC1 | C24H26N4O2
